US07468364B2
Sodium (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-(4-methoxyphenyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.15 g) in dry DMF (2.0 ml) was ice-cooled. After 4-bromomethyl-5-methyl-1,3-dioxol-2-one (115 mg) was dropped thereto, the mixture was stirred for 30 minutes. After removal of the bath the mixture was further stirred for 30 minutes. Thereto was ethyl acetate, and the mixture was washed with bicarbonate solution, water and brine, successively. The organic layer was dried over sodium sulfate, concentrated and the residue was purified with silica gel column chromatography (ethyl acetate only) to give (5-methyl-2-oxo-1,3-dioxol-4-yl)methyl (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-(4-methoxyphenyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.11 g, yield 60%).

reactant | Sodium (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-(4-methoxyphenyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.15 g | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)[O-])C1=CC=C(C=C1)OC.[Na+]
reactant | 4-bromomethyl-5-methyl-1,3-dioxol-2-one | 115 mg | BrCC=1OC(OC1C)=O | C5H5BrO3
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | (5-methyl-2-oxo-1,3-dioxol-4-yl)methyl (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-(4-methoxyphenyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.11 g, yield 60% | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)OCC=1OC(OC1C)=O)C1=CC=C(C=C1)OC | C21H21NO8
